US04755594
(1-Phenylcyclohexyl)methylamine (1.80 g, 8 mmol) as prepared below, and 6-chloropurine riboside (2.36 g, 8 mmol) are reacted as described in Example 1. The solvent is removed under reduced pressure, and the residue dissolved up in CHCl3 and washed with water and dried (MgSO4). The solvent is removed under reduced pressure and the residual white foam is purified on silica gel chromatography eluting with 10% MeOH in CH2Cl2 to give N6-((1-phenylcyclohexyl)methyl)adenosine (1.49 g, 42%) as a white glass m.p. 87°-9° C. Found: C, 62.22; H, 6.96; N, 15.70%. C23H29N5O4 calculated requires: C, 62.87; H, 6.61; N, 15.95%.

reactant | (1-Phenylcyclohexyl)methylamine | 8 mmol, 1.80 g | C1(=CC=CC=C1)C1(CCCCC1)CN | C13H19N
reactant | 6-chloropurine riboside | 8 mmol, 2.36 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
product | N6-((1-phenylcyclohexyl)methyl)adenosine | 1.49 g, 42% | C1(=CC=CC=C1)C1(CCCCC1)CNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C23H29N5O4
